US06977255B2
8-Hydroxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one
A solution of 8-benzyloxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.97 g, 2.9 mmol) in dichloromethane (50 ml) under nitrogen was treated dropwise with trifluoromethanesulfonic anhydride (1 ml, 6.0 mmol) and the mixture was stirred at RT overnight. Methanol (20 ml) was added and the solution stirred for a further 1 h, then the solution was evaporated to dryness. The residue was taken up in ethyl acetate, washed with brine, dried and then eluted through a silica column using a gradient of 0-5% methanol in ethyl acetate. The product was obtained as a brown powder (0.35 g)

reactant | 8-benzyloxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.9 mmol, 0.97 g | C(C1=CC=CC=C1)OC1=CC=2N(C(C=C(N2)N2CCOCC2)=O)C=C1 | C19H19N3O3
reactant | trifluoromethanesulfonic anhydride | 6.0 mmol, 1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 8-Hydroxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.35 g | OC1=CC=2N(C(C=C(N2)N2CCOCC2)=O)C=C1 | C12H13N3O3
